US08895588B2
ethyl 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazole-3-carboxylate
To a solution of crude ethyl 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfanyl]-1H-pyrazole-3-carboxylate (334 mg) in ethyl acetate (7.5 mL) was added 3-chloroperbenzoic acid (1.59 g). The mixture was stirred at room temperature for 3 hr, treated with saturated aqueous sodium thiosulfate solution, and extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a colorless oil (yield 384 mg, 2 steps yield 62%).

reactant | ethyl 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfanyl]-1H-pyrazole-3-carboxylate | 334 mg | FC1=NC=CC=C1N1N=C(C=C1SC1=CC(=CC=C1)C)C(=O)OCC | C18H16FN3O2S
reactant | 3-chloroperbenzoic acid | 1.59 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 7.5 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazole-3-carboxylate | yield 384 mg, yield 62% | FC1=NC=CC=C1N1N=C(C=C1S(=O)(=O)C1=CC(=CC=C1)C)C(=O)OCC | C18H16FN3O4S
